* GENERATED RUN F4_R11P5_T025; RJ1 variant qb-rj1-11p5.cir; dt=0.025 ps
* Physics template: test/exploration/bvmsim-stagea-timestep-event-count-v1-20260902/migrated/T100.cir; state=collective
* BVM Mixed Model Verification — BVM junctions use V0 params only
* Verifies that adding ColdFlux QB models doesn't break BVM

.include ../../../../../circuits/models/jjmit.cir
.include ../../../../../BVMSim/bvm_cell.cir
.include ../../inputs/qb-rj1-11p5.cir
.include ../../../../../BVMSim/library_josim/jtl2.cir




XBVM1 WL1 BL1 SE1 SL1 BVM
XBVM2 WL2 BL2 SE2 SL2 BVM
XBVM3 WL3 BL3 SE3 SL3 BVM
XBVM4 WL4 BL4 SE4 SL4 BVM

* R_0 SL1 0 2

B_LD01  SL1   nld11 jjmit area=3.2
B_LD02  nld11 nld12 jjmit area=3.2
B_LD03  nld12 nld13 jjmit area=3.2
B_LD04  nld13 nld14 jjmit area=3.2
B_LD05  nld14 nld15 jjmit area=3.2
B_LD06  nld15 nld16 jjmit area=3.2
B_LD07  nld16 nld17 jjmit area=3.2
B_LD08  nld17 nld18 jjmit area=3.2
B_LD09  nld18 nld19 jjmit area=3.2
B_LD10  nld19 nld20 jjmit area=3.2
B_LD11  nld20 nld21 jjmit area=3.2
B_LD12  nld21 SL2 jjmit area=3.2
* BVMout  nld21 QBin jjmit area=3.2


B_LD2_01  SL2     nld2_11 jjmit area=3.2
B_LD2_02  nld2_11 nld2_12 jjmit area=3.2
B_LD2_03  nld2_12 nld2_13 jjmit area=3.2
B_LD2_04  nld2_13 nld2_14 jjmit area=3.2
B_LD2_05  nld2_14 nld2_15 jjmit area=3.2
B_LD2_06  nld2_15 nld2_16 jjmit area=3.2
B_LD2_07  nld2_16 nld2_17 jjmit area=3.2
B_LD2_08  nld2_17 nld2_18 jjmit area=3.2
B_LD2_09  nld2_18 nld2_19 jjmit area=3.2
B_LD2_10  nld2_19 nld2_20 jjmit area=3.2
B_LD2_11  nld2_20 nld2_21 jjmit area=3.2
B_LD2_12  nld2_21 SL3     jjmit area=3.2
* BVMout    nld2_21 QBin jjmit area=3.2


B_LD3_01  SL3     nld3_11 jjmit area=3.2
B_LD3_02  nld3_11 nld3_12 jjmit area=3.2
B_LD3_03  nld3_12 nld3_13 jjmit area=3.2
B_LD3_04  nld3_13 nld3_14 jjmit area=3.2
B_LD3_05  nld3_14 nld3_15 jjmit area=3.2
B_LD3_06  nld3_15 nld3_16 jjmit area=3.2
B_LD3_07  nld3_16 nld3_17 jjmit area=3.2
B_LD3_08  nld3_17 nld3_18 jjmit area=3.2
B_LD3_09  nld3_18 nld3_19 jjmit area=3.2
B_LD3_10  nld3_19 nld3_20 jjmit area=3.2
B_LD3_11  nld3_20 nld3_21 jjmit area=3.2
B_LD3_12  nld3_21 SL4     jjmit area=3.2
* BVMout    nld3_21 QBin jjmit area=3.2


B_LD4_01  SL4     nld4_11 jjmit area=3.2
B_LD4_02  nld4_11 nld4_12 jjmit area=3.2
B_LD4_03  nld4_12 nld4_13 jjmit area=3.2
B_LD4_04  nld4_13 nld4_14 jjmit area=3.2
B_LD4_05  nld4_14 nld4_15 jjmit area=3.2
B_LD4_06  nld4_15 nld4_16 jjmit area=3.2
B_LD4_07  nld4_16 nld4_17 jjmit area=3.2
B_LD4_08  nld4_17 nld4_18 jjmit area=3.2
B_LD4_09  nld4_18 nld4_19 jjmit area=3.2
B_LD4_10  nld4_19 nld4_20 jjmit area=3.2
B_LD4_11  nld4_20 nld4_21 jjmit area=3.2
BVMout    nld4_21 QBin jjmit area=3.2




* .param tsWL1_1=10p
* .param tsWL1_2=50p
* .param tsWL1_3=90p
* .param tsWL1_4=130p
* .param tsWL1_5=170p
* .param tsWL1_6=210p
* .param delay1_1 = 0

* I_WL1 0 WL1 pwl(0 0
* + {tsWL1_1} 0 {tsWL1_1+1p} 100u {tsWL1_1+10p} 100U {tsWL1_1+11p} 0
* + {tsWL1_2} 0 {tsWL1_2+1p} 100u {tsWL1_2+20p} 100U {tsWL1_2+21p} 0
* + {tsWL1_3} 0 {tsWL1_3+1p} 100u {tsWL1_3+10p} 100U {tsWL1_3+11p} 0
* + {tsWL1_4} 0 {tsWL1_4+1p} -100u {tsWL1_4+10p} -100U {tsWL1_4+11p} 0
* + {tsWL1_5} 0 {tsWL1_5+1p} 100u {tsWL1_5+10p} 100U {tsWL1_5+11p} 0
* + {tsWL1_6} 0 {tsWL1_6+1p} 100u {tsWL1_6+10p} 100U {tsWL1_6+11p} 0
* + )

* .param tsBL1_1=10p
* .param tsBL1_2=110p
* .param tsBL1_3=130p
* * .param tsBL1_4=130p
* I_BL1 0 BL1 pwl(0 0
* + {tsBL1_1} 0 {tsBL1_1+1p} 100u {tsBL1_1+10p} 100U {tsBL1_1+11p} 0
* + {tsBL1_2} 0 {tsBL1_2+1p} 100u {tsBL1_2+10p} 100U {tsBL1_2+11p} 0
* + {tsBL1_3} 0 {tsBL1_3+1p} -100u {tsBL1_3+10p} -100U {tsBL1_3+11p} 0
* + )

* .param tsSE1_1=50p
* .param tsSE1_2=90p
* .param tsSE1_3=170p
* .param tsSE1_4=210p
* I_SE1 0 SE1 pwl(0 0
* + {tsSE1_1} 0 {tsSE1_1+1p} 100u {tsSE1_1+20p} 100U {tsSE1_1+21p} 0
* + {tsSE1_2} 0 {tsSE1_2+1p} 100u {tsSE1_2+10p} 100U {tsSE1_2+11p} 0
* + {tsSE1_3} 0 {tsSE1_3+1p} 100u {tsSE1_3+10p} 100U {tsSE1_3+11p} 0
* + {tsSE1_4} 0 {tsSE1_4+1p} 100u {tsSE1_4+10p} 100U {tsSE1_4+11p} 0
* + )





***** 1 ****
.param tsWL1_2=50p
.param tsWL1_3=70p
.param tsWL1_4=90p
.param tsWL1_5=110p

.param delay1_1 = 0

I_WL1 0 WL1 pwl(0 0
+ {tsWL1_2} 0 {tsWL1_2+1p} -100u {tsWL1_2+10p} -100U {tsWL1_2+11p} 0
+ {tsWL1_3} 0 {tsWL1_3+1p} 100u {tsWL1_3+10p} 100U {tsWL1_3+11p} 0
+ {tsWL1_4} 0 {tsWL1_4+1p} 100u {tsWL1_4+10p} 100U {tsWL1_4+11p} 0
+ {tsWL1_5} 0 {tsWL1_5+1p} 100u {tsWL1_5+10p} 100U {tsWL1_5+11p} 0
+ )

.param tsBL1_1=50p
.param tsBL1_2=90p
I_BL1 0 BL1 pwl(0 0
+ {tsBL1_1} 0 {tsBL1_1+1p} -100u {tsBL1_1+10p} -100U {tsBL1_1+11p} 0
+ {tsBL1_2} 0 {tsBL1_2+1p} 100u {tsBL1_2+10p} 100U {tsBL1_2+11p} 0
+ )

.param tsSE1_1=70p
.param tsSE1_2=110p
I_SE1 0 SE1 pwl(0 0
+ {tsSE1_1} 0 {tsSE1_1+1p} 100u {tsSE1_1+10p} 100U {tsSE1_1+11p} 0
+ {tsSE1_2} 0 {tsSE1_2+1p} 100u {tsSE1_2+10p} 100U {tsSE1_2+11p} 0
+ )



***** 2 ****
.param tsWL2_2=50p
.param tsWL2_3=70p
.param tsWL2_4=90p
.param tsWL2_5=110p

.param delay2_1 = 0

I_WL2 0 WL2 pwl(0 0
+ {tsWL2_2} 0 {tsWL2_2+1p} -100u {tsWL2_2+10p} -100U {tsWL2_2+11p} 0
+ {tsWL2_3} 0 {tsWL2_3+1p}  100u {tsWL2_3+10p}  100U {tsWL2_3+11p} 0
+ {tsWL2_4} 0 {tsWL2_4+1p}  100u {tsWL2_4+10p}  100U {tsWL2_4+11p} 0
+ {tsWL2_5} 0 {tsWL2_5+1p}  100u {tsWL2_5+10p}  100U {tsWL2_5+11p} 0
+ )

.param tsBL2_1=50p
.param tsBL2_2=90p
I_BL2 0 BL2 pwl(0 0
+ {tsBL2_1} 0 {tsBL2_1+1p} -100u {tsBL2_1+10p} -100U {tsBL2_1+11p} 0
+ {tsBL2_2} 0 {tsBL2_2+1p}  100u {tsBL2_2+10p}  100U {tsBL2_2+11p} 0
+ )

.param tsSE2_1=70p
.param tsSE2_2=110p
I_SE2 0 SE2 pwl(0 0
+ {tsSE2_1} 0 {tsSE2_1+1p} 100u {tsSE2_1+10p} 100U {tsSE2_1+11p} 0
+ {tsSE2_2} 0 {tsSE2_2+1p} 100u {tsSE2_2+10p} 100U {tsSE2_2+11p} 0
+ )


***** 3 ****
.param tsWL3_2=50p
.param tsWL3_3=70p
.param tsWL3_4=90p
.param tsWL3_5=110p

.param delay3_1 = 0

I_WL3 0 WL3 pwl(0 0
+ {tsWL3_2} 0 {tsWL3_2+1p} -100u {tsWL3_2+10p} -100U {tsWL3_2+11p} 0
+ {tsWL3_3} 0 {tsWL3_3+1p}  100u {tsWL3_3+10p}  100U {tsWL3_3+11p} 0
+ {tsWL3_4} 0 {tsWL3_4+1p}  100u {tsWL3_4+10p}  100U {tsWL3_4+11p} 0
+ {tsWL3_5} 0 {tsWL3_5+1p}  100u {tsWL3_5+10p}  100U {tsWL3_5+11p} 0
+ )

.param tsBL3_1=50p
.param tsBL3_2=90p
I_BL3 0 BL3 pwl(0 0
+ {tsBL3_1} 0 {tsBL3_1+1p} -100u {tsBL3_1+10p} -100U {tsBL3_1+11p} 0
+ {tsBL3_2} 0 {tsBL3_2+1p}  100u {tsBL3_2+10p}  100U {tsBL3_2+11p} 0
+ )

.param tsSE3_1=70p
.param tsSE3_2=110p
I_SE3 0 SE3 pwl(0 0
+ {tsSE3_1} 0 {tsSE3_1+1p} 100u {tsSE3_1+10p} 100U {tsSE3_1+11p} 0
+ {tsSE3_2} 0 {tsSE3_2+1p} 100u {tsSE3_2+10p} 100U {tsSE3_2+11p} 0
+ )



***** 4 ****
.param tsWL4_2=50p
.param tsWL4_3=70p
.param tsWL4_4=90p
.param tsWL4_5=110p

.param delay4_1 = 0

I_WL4 0 WL4 pwl(0 0
+ {tsWL4_2} 0 {tsWL4_2+1p} -100u {tsWL4_2+10p} -100U {tsWL4_2+11p} 0
+ {tsWL4_3} 0 {tsWL4_3+1p}  100u {tsWL4_3+10p}  100U {tsWL4_3+11p} 0
+ {tsWL4_4} 0 {tsWL4_4+1p}  100u {tsWL4_4+10p}  100U {tsWL4_4+11p} 0
+ {tsWL4_5} 0 {tsWL4_5+1p}  100u {tsWL4_5+10p}  100U {tsWL4_5+11p} 0
+ )

.param tsBL4_1=50p
.param tsBL4_2=90p
I_BL4 0 BL4 pwl(0 0
+ {tsBL4_1} 0 {tsBL4_1+1p} -100u {tsBL4_1+10p} -100U {tsBL4_1+11p} 0
+ {tsBL4_2} 0 {tsBL4_2+1p}  100u {tsBL4_2+10p}  100U {tsBL4_2+11p} 0
+ )

.param tsSE4_1=70p
.param tsSE4_2=110p
I_SE4 0 SE4 pwl(0 0
+ {tsSE4_1} 0 {tsSE4_1+1p} 100u {tsSE4_1+10p} 100U {tsSE4_1+11p} 0
+ {tsSE4_2} 0 {tsSE4_2+1p} 100u {tsSE4_2+10p} 100U {tsSE4_2+11p} 0
+ )







I_QB_BIAS 0 QB_BIAS pwl(0 0 1p 250u)
xBQ1 QBin QBout QB_BIAS BQ_BVMSIM_V1
* RBQ1 QBout 0 20
* xjtl1_1 QBout o1 jtl
* RBQ1 o1 0 40

xjtl1_1 QBout o1 jtl
xjtl1_2 o1 o2 jtl
xjtl1_3 o2 o3 jtl
xjtl1_4 o3 o4 jtl
xjtl1_5 o4 o5 jtl
xjtl1_6 o5 o6 jtl
RBQ1 o6 0 10



.tran 0.025p 200p 45p
* .print I(I_WL1) I(I_BL1) I(I_SE1) I(I_SL1)
* .print P(B_JM1|XBVM1) P(B_JM2|XBVM1) P(B_JS1|XBVM1) P(B_JS2|XBVM1) P(B_JT1|XBVM1)
* .print I(L_M1|XBVM1) I(L_M2|XBVM1) I(L_M3|XBVM1) I(B_JT1|XBVM1)
* .print i(R_SL|XBVM1) i(L_SL|XBVM1)
* .print v(SL1) v(out) v(o1)


.print I(I_WL1) I(I_BL1) I(I_SE1)
.print P(BVMOUT) V(BVMOUT) I(BVMOUT)
.print V(QBIN) V(QBOUT)
.print V(O1) V(O2) V(O3) V(O4) V(O5) V(O6)
.print I(LIN|XBQ1) I(BJS|XBQ1) P(BJS|XBQ1) V(BJS|XBQ1)
.print I(BJ1|XBQ1) P(BJ1|XBQ1) V(BJ1|XBQ1) I(RJ1|XBQ1)
.print I(L1|XBQ1) I(I_QB_BIAS) I(L2|XBQ1)
.print I(BJ2|XBQ1) P(BJ2|XBQ1) V(BJ2|XBQ1) I(RJ2|XBQ1)
.print I(L3|XBQ1)
.print P(B01|XJTL1_1) V(B01|XJTL1_1) P(B02|XJTL1_1) V(B02|XJTL1_1)
.print P(B01|XJTL1_2) V(B01|XJTL1_2) P(B02|XJTL1_2) V(B02|XJTL1_2)
.print P(B01|XJTL1_3) V(B01|XJTL1_3) P(B02|XJTL1_3) V(B02|XJTL1_3)
.print P(B01|XJTL1_4) V(B01|XJTL1_4) P(B02|XJTL1_4) V(B02|XJTL1_4)
.print P(B01|XJTL1_5) V(B01|XJTL1_5) P(B02|XJTL1_5) V(B02|XJTL1_5)
.print P(B01|XJTL1_6) V(B01|XJTL1_6) P(B02|XJTL1_6) V(B02|XJTL1_6)
.end
